US04780471
2-[2-(4-Phenylbenzyloxy)phenyl]-3-(imidazol-1-yl)propene
2-(2-Hydroxyphenyl)-3-(imidazol-1-yl)-1-propene (400 mg, 2.0 mmole) was dissolved in dimethylformamide (5 ml) and sodium hydride (60% dispersion in oil)(110 mg, 2.75 mmole) was added to the solution with stirring and ice-cooling. After stirring for additional 30 minutes, 4-phenylbenzylchloride (490 mg, 2.42 mmole) was added and the mixture was stirred overnight at room temperature. Then, the mixture was poured into water (50 ml) and extracted with diethyl ether (75 ml×2). The extract was washed with water (50 ml×2) and dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was subjected to chromatography on a silica gel column and eluted with methylene chloride/methanol to obtain the title compound (0.41 g, 55.9%), m.p. 90°-92° C. (recrystallized from ethyl acetate/n-hexane).

reactant | 2-(2-Hydroxyphenyl)-3-(imidazol-1-yl)-1-propene | 2.0 mmole, 400 mg | OC1=C(C=CC=C1)C(=C)CN1C=NC=C1 | C12H12N2O
reactant | sodium hydride | 2.75 mmole, 110 mg | [H-].[Na+]
reactant | 4-phenylbenzylchloride | 2.42 mmole, 490 mg | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[2-(4-Phenylbenzyloxy)phenyl]-3-(imidazol-1-yl)propene | C1(=CC=CC=C1)C1=CC=C(COC2=C(C=CC=C2)C(=C)CN2C=NC=C2)C=C1 | C25H22N2O
